US07402589B2
Preparation of 1-(4-Fluorophenyl)-1-(2-isopropylamino-pyrimidin-4-yl)-3-pyridin-4-ylmethyl-urea (6):
4-(Aminomethyl)pyridine (100 μL, 0.974 mmol) is added dropwise to a solution of (4-fluorophenyl)-(2-isopropylamino-pyrimidin-4-yl)-carbamic acid 4-nitro-phenyl ester, 5, (334 mg, 0.812 mmol) in methylene chloride (8 mL) at room temperature. The orange solution is stirred at ambient temperature overnight. The reaction mixture is diluted with methylene chloride (50 mL) and washed with a 0.5 N aqueous solution of sodium hydroxide (2×50 mL) and water (50 mL), dried over sodium sulfate, filtered and concentrated to a yellow oil which is purified over silica (20% Et2O/CH2Cl2 to 100% EtOAc) to afford the desired product as a white solid: 1H NMR (300 MHz, CDCl3) δ 10.76 (br s, 1H), 8.61 (d, J=6.0 Hz, 2H), 7.93 (d, J=5.7 Hz, 1H), 7.34 (d, J=6.0 Hz, 2H), 7.29-7.16 (m, 4H), 5.43 (d, J=5.9 Hz, 1H), 5.02 (br s, 1H), 4.60 (d, J=5.5 Hz, 2H), 4.15 (br s, 1H), 1.15 (d, J=6.4 Hz, 6H); MS (ESI) m/z 381 (M+1).

reactant | 4-(Aminomethyl)pyridine | 0.974 mmol, 100 μL | NCC1=CC=NC=C1 | C6H8N2
reactant | (4-fluorophenyl)-(2-isopropylamino-pyrimidin-4-yl)-carbamic acid 4-nitro-phenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(N(C1=NC(=NC=C1)NC(C)C)C1=CC=C(C=C1)F)=O | C20H18FN5O4
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-Fluorophenyl)-1-(2-isopropylamino-pyrimidin-4-yl)-3-pyridin-4-ylmethyl-urea | FC1=CC=C(C=C1)N(C(=O)NCC1=CC=NC=C1)C1=NC(=NC=C1)NC(C)C | C20H21FN6O
